US07601716B2
N-[3,5-Bis(trifluoromethyl)benzyl]-3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzamide
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 3,5-bis(trifluoromethyl)benzylamine as in General Procedure 10 to give the title compound. LCMS: m/z=672.88 (M+H+); retention time=1.11 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 3,5-bis(trifluoromethyl)benzylamine | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
product | N-[3,5-Bis(trifluoromethyl)benzyl]-3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzamide | FC(C=1C=C(CNC(C2=CC(=CC=C2)C2=CC3=C(NCCN3CC3=C(C=CC(=C3)Cl)C(F)(F)F)N=C2)=O)C=C(C1)C(F)(F)F)(F)F | C31H22ClF9N4O
